US06528503B2
To a stirred solution of methyl 2-benzyloxy-3-cyclopropylbutanoate (1.0 g, 4.0 mmol) and acetic acid (1 mL) in MeOH (25 mL) was added 10% palladium on charcoal (100 mg). Hydrogen gas was bubbled though the stirred solution for several minutes, and the reaction mixture was stirred under an atmosphere of hydrogen for 6 h. Nitrogen gas was bubbled through the solution to purge all of the hydrogen and the catalyst was removed by filtration. The filtrate solvents were removed under reduced pressure and the residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic layer was separated, dried (MgSO4), filtered, and the solvent was removed under reduced pressure to give methyl 2-hydroxy-3-cyclopropylbutanoate as a colorless oil. HPLC RT=2.47 min (Method A); LC-MS m/z=159; 1H NMR 400 MHz, CDCl3, 4.25 ppm (dd, J=3.3, 6.5 Hz, 1H), 3.77 ppm (s, 3H), 2.72 ppm (d, J=6.6 Hz, 1H), 1.05 ppm (m, 1h) 0.95 ppm (d, J=7 Hz, 3H), 0.84 ppm (m, 1H), 0.50 ppm (m, 2H), 0.19 ppm (m, 1H), 0.10 ppm (m, 1H)

reactant | methyl 2-benzyloxy-3-cyclopropylbutanoate | 4.0 mmol, 1.0 g | C(C1=CC=CC=C1)OC(C(=O)OC)C(C)C1CC1 | C15H20O3
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 25 mL | CO | CH4O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | methyl 2-hydroxy-3-cyclopropylbutanoate | OC(C(=O)OC)C(C)C1CC1 | C8H14O3
